US06627634B2
(9) (R)-4-[(3-chloro-4-fluorophenyl)amino]-6-({4-[4-(6-methyl-2-oxomorpholin-4yl)piperidin-1yl]-1-oxo-2buten-1yl}amino)-7-cyclopropylmethoxyquinazoline
Prepared by lactonizing the intermediate product ((R)-4-[(3-chloro-4-fluorophenyl)amino]-6 ({4-[4-[N-(tert-butyloxycarbonylmethyl)-N-(2-hydroxypropyl)amino]piperidin-1-y]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxyquinazoline, melting point: from 115° C. (with foaming); Rf value: 0.53 (silica gel, methylene chloride/methanol 9:1)) in the presence of 5 equivalents of trifluoroacetic acid in acetonitrile under reflux; melting point: from 126° C. (with foaming); mass spectrum (ESI+): m/z=623, 625 [M+H]+; Rf value: 0.29 (silica gel, ethyl acetate/methanol 4:1).

reactant | (R)-4-[(3-chloro-4-fluorophenyl)amino]-6 ({4-[4-[N-(tert-butyloxycarbonylmethyl)-N-(2-hydroxypropyl)amino]piperidin-1-y]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxyquinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCC(CC1)N(C[C@@H](C)O)CC(=O)OC(C)(C)C)=O)OCC1CC1 | C36H46ClFN6O5
reactant | methylene chloride methanol | C(Cl)Cl.CO
reactant | trifluoroacetic acid | 5 equivalents | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-4-[(3-chloro-4-fluorophenyl)amino]-6-({4-[4-(6-methyl-2-oxomorpholin-4yl)piperidin-1yl]-1-oxo-2buten-1yl}amino)-7-cyclopropylmethoxyquinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCC(CC1)N1CC(O[C@@H](C1)C)=O)=O)OCC1CC1 | C32H36ClFN6O4
